US08957203B2
To a stirred solution of 3-allyl-1-chloroisoquinolin-4-ol (670 mg, 3.05 mmol) in dry tetrahydrofuran (5 mL) at room temperature was added 0.5 M in THF solution of 9-BBN (18.30 mL, 9.15 mmol) and the mixture was stirred for overnight. 3N NaOH (9.15 mL, 27.5 mmol) and H2O2 (2.83 mL, 30.5 mmol) were then added to the mixture. The mixture was stirred for 45 min before quenching with sat. NaCl solution. 1 N HCl was then added to the solution to adjust PH<7. The reaction was extracted with EtOAc. The organic layer was washed with brine, dried and concentrated to afford a yellow oil that was purified by silica gel chromatography using 20-40% EtOAc/hexane to obtain 1-chloro-3-(3-hydroxypropyl)isoquinolin-4-ol (520 mg, 70%) as product. MS: MS m/z 238.0 (M++1).

reactant | 3-allyl-1-chloroisoquinolin-4-ol | 3.05 mmol, 670 mg | C(C=C)C=1N=C(C2=CC=CC=C2C1O)Cl | C12H10ClNO
reactant | 9-BBN | 9.15 mmol, 18.30 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 27.5 mmol, 3N, 9.15 mL | [OH-].[Na+]
reactant | H2O2 | 30.5 mmol, 2.83 mL | OO | H2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1-chloro-3-(3-hydroxypropyl)isoquinolin-4-ol | 520 mg, 70% | ClC1=NC(=C(C2=CC=CC=C12)O)CCCO | C12H12ClNO2
